US04395550
(a) 1-Isopropyl-7-methyl-4a,5,6,8a-tetrahydro-2,4-(1H)-quinazolindione
To a solution of 100 g 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-3-cyclohexene-nitrile in 700 ml 95% ethanol are added 90 ml of concentrated aqueous sodium hydroxide. To this mixture are added dropwise within 4 hours under stirring and at an internal temperature of 40° 600 ml 40% hydrogen peroxide. Stirring is continued over night at room temperature. The reaction mixture is concentrated in vacuo and the residue treated with water and toluene. The water layer is extracted twice with toluene and the combined toluene extracts are washed with water and evaporated in vacuo to give the title compound.

reactant | 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-3-cyclohexene-nitrile | 100 g | C(C)(C)N(C(=O)OC)C1C(CCC(=C1)C)C#N | C13H20N2O2
reactant | sodium hydroxide | 90 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 600 ml | OO | H2O2
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 1-Isopropyl-7-methyl-4a,5,6,8a-tetrahydro-2,4-(1H)-quinazolindione | C(C)(C)N1C(NC(C2CCC(=CC12)C)=O)=O | C12H18N2O2
